US04994606
According to the present invention, 4,5-difluoroanthranilic acid may be prepared from either 4,5 difluorophthalic anhydride or 4,5-difluorophthalic acid. The process of this invention comprises the decarboxylation of either 4,5-difluorophthalic anhydride and 4,5-difluorophthalic acid in N-methyl-2-pyrrolidone, quinoline, or dimethyl acetamide solution optionally using copper, copper oxide, copper salts, or halides and salts of Zn, Cd, Ag and Ni as a catalyst, to yield 3,4-difluorobenzoic acid; the nitration of the 3,4-difluorobenzoic acid in a mixture of nitric and sulfuric acids to form 2-nitro-4,5-difluorobenzoic acid; and the reduction of the 2-nitro-4,5-difluorobenzoic acid to form 4,5-difluoroanthranilic acid.

reactant | 4,5-difluoroanthranilic acid | FC=1C=C(C(C(=O)O)=CC1F)N | C7H5F2NO2
reactant | 4,5 difluorophthalic anhydride | FC=1C=C2C(C(=O)OC2=O)=CC1F | C8H2F2O3
reactant | 4,5-difluorophthalic acid | FC=1C=C(C(C(=O)O)=CC1F)C(=O)O | C8H4F2O4
catalyst | 4,5-difluorophthalic anhydride | FC=1C=C2C(C(=O)OC2=O)=CC1F | C8H2F2O3
catalyst | 4,5-difluorophthalic acid | FC=1C=C(C(C(=O)O)=CC1F)C(=O)O | C8H4F2O4
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | dimethyl acetamide | CC(=O)N(C)C | C4H9NO
catalyst | copper | [Cu] | Cu
catalyst | copper oxide | [Cu]=O
catalyst | Zn | [Zn] | Zn
catalyst | Ni | [Ni] | Ni
product | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
